US04690931
1. 2-[4-(4-Fluorobenzyl)-piperidino]-4'-chloroacetophenone
78 ml of ethanol are placed in a 250 ml conical flask and 2 ml of a 5.3N methanolic solution of sodium methoxide are added. 2.29 g (0.01 mol) of 4-(4-fluorobenzyl)-piperidine hydrochloride are added and the mixture is stirred for 15 minutes. 1.38 g of potassium carbonate are then added, followed by 2.33 g (0.01 mol) of 2-bromo-4'-chloroacetophenone, and the mixture is heated under reflux for 2 hours. It is left to cool, the inorganic precipitate is filtered off, the filtrate is evaporated to dryness and the residual oil is taken up in 1N hydrochloric acid. Extraction is carried out with chloroform and the organic phase is washed with water, dried over sodium sulphate and evaporated to dryness. 3.22 g of the crude hydrochloride remain in the form of an oil, which is used as such but which can be recrystallized from a mixture of acetone/diethyl ether (melting point=168° C.).

reactant | sodium methoxide | C[O-].[Na+]
reactant | 4-(4-fluorobenzyl)-piperidine hydrochloride | 0.01 mol, 2.29 g | Cl.FC1=CC=C(CC2CCNCC2)C=C1
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-4'-chloroacetophenone | 0.01 mol, 2.33 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
solvent | ethanol | 78 ml | C(C)O | C2H6O
product | 2-[4-(4-Fluorobenzyl)-piperidino]-4'-chloroacetophenone | FC1=CC=C(CC2CCN(CC2)CC(=O)C2=CC=C(C=C2)Cl)C=C1 | C20H21ClFNO
